US04542158
To a mixture of vinyl 5-(2,4-difluorophenyl)salicylate (15 g) and 0.1 g dry PCl5, HCl gas is passed for about one hour at about 120°-125° C. Upon cooling, the crude product crystallizes and is collected by filtration. Recrystallization from methanol yields pure 1-chloroethyl 5-(2,4-difluorophenyl)salicylate.

reactant | vinyl 5-(2,4-difluorophenyl)salicylate | 15 g | FC1=C(C=CC(=C1)F)C1=CC=C(C(C(=O)OC=C)=C1)O | C15H10F2O3
reactant | PCl5 | 0.1 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | Cl | ClH
product | 1-chloroethyl 5-(2,4-difluorophenyl)salicylate | FC1=C(C=CC(=C1)F)C1=CC=C(C(C(=O)OC(C)Cl)=C1)O | C15H11ClF2O3
